US08557996B2
Synthesis of 4-bromo-N1-(3-(dimethylamino)propyl)-N1-methylbenzene-1,2-diamine
To N-(4-Bromo-2-nitro-phenyl)-N,N′,N′-trimethyl-propane-1,3-diamine (made by a method similar to that of Example 103-Step 1) (0.54 g, 1.7 mmol) in 20 ml EtOH was added SnCl2 (0.51 g, 2.67 mmol). The mixture was sealed and was heated to 80° C. for 12 h. An additional amount of SnCl2 (0.51 g, 2.67 mmol) was added and heating continued for 12 h. The reaction was cooled to ambient temperature, and was poured into a mixture of EtOAc and saturated aqueous sodium bicarbonate. The mixture was filtered through celite, and the organic layer was removed. The aqueous layer was extracted twice with EtOAc, and the combined organic layers were dried with Na2SO4, filtered, and concentrated to give a cloudy oil. This material was filtered through silica gel with 90/10/1 dichloromethane/MeOH/conc. NH4OH and concentrated in vacuo to give the title compound as a red oil. MS (ES+): 285.9 (M+H)+. Calc'd for C12H20BrN3: 286.21.

reactant | N-(4-Bromo-2-nitro-phenyl)-N,N′,N′-trimethyl-propane-1,3-diamine | BrC1=CC(=C(C=C1)N(CCCN(C)C)C)[N+](=O)[O-] | C12H18BrN3O2
reactant | SnCl2 | 2.67 mmol, 0.51 g | Cl[Sn]Cl
reactant | SnCl2 | 2.67 mmol, 0.51 g | Cl[Sn]Cl
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | EtOH | 20 ml | CCO | C2H6O
product | 4-bromo-N1-(3-(dimethylamino)propyl)-N1-methylbenzene-1,2-diamine | BrC=1C=C(C(=CC1)N(C)CCCN(C)C)N | C12H20BrN3
